* c:\users\suman\esim-workspace\adc\adc.cir

.include lm_741.sub
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ gnd net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ adc_bridge_8
* u5  net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_r16-pad1_ d1 d0 dac_bridge_3
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
r5  net-_r4-pad2_ net-_r5-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r7-pad2_ 1k
r8  net-_r7-pad2_ gnd 1k
v1 vref gnd  dc 5
* u1  vref plot_v1
* u2  va plot_v1
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ss_8to3_priority_encoder
x2 net-_r10-pad1_ net-_r1-pad2_ va gnd net-_r10-pad2_ net-_u4-pad1_ net-_x1-pad7_ ? lm_741
x4 net-_r12-pad1_ net-_r3-pad2_ va gnd net-_r12-pad2_ net-_u4-pad3_ net-_x1-pad7_ ? lm_741
x5 net-_r13-pad1_ net-_r4-pad2_ va gnd net-_r13-pad2_ net-_u4-pad4_ net-_x1-pad7_ ? lm_741
x7 net-_r15-pad1_ net-_r6-pad2_ va gnd net-_r15-pad2_ net-_u4-pad6_ net-_x1-pad7_ ? lm_741
x6 net-_r14-pad1_ net-_r5-pad2_ va gnd net-_r14-pad2_ net-_u4-pad5_ net-_x1-pad7_ ? lm_741
x1 net-_r9-pad1_ net-_r7-pad2_ va gnd net-_r9-pad2_ net-_u4-pad7_ net-_x1-pad7_ ? lm_741
x3 net-_r11-pad1_ net-_r2-pad2_ va gnd net-_r11-pad2_ net-_u4-pad2_ net-_x1-pad7_ ? lm_741
r9  net-_r9-pad1_ net-_r9-pad2_ 1k
r15  net-_r15-pad1_ net-_r15-pad2_ 1k
r14  net-_r14-pad1_ net-_r14-pad2_ 1k
r13  net-_r13-pad1_ net-_r13-pad2_ 1k
r12  net-_r12-pad1_ net-_r12-pad2_ 1k
r11  net-_r11-pad1_ net-_r11-pad2_ 1k
r10  net-_r10-pad1_ net-_r10-pad2_ 1k
r16  net-_r16-pad1_ d2 1k
c1  d2 gnd 1u
* u6  d2 plot_v1
* u7  d1 plot_v1
* u8  d0 plot_v1
r1  vref net-_r1-pad2_ 1k
v3 net-_x1-pad7_ gnd  dc 5
v2 va gnd  dc 5
a1 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ gnd ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] u4
a2 [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ] [net-_r16-pad1_ d1 d0 ] u5
a3 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ ] u3
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ss_8to3_priority_encoder, NgSpice Name: ss_8to3_priority_encoder
.model u3 ss_8to3_priority_encoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 2e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d2) v(d1)+5 v(d0)+10 v(va)+15 v(vref)+20

.endc
.end
